US07825256B2
A solution of (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine (65 mg, 156 μmol), formalin (63 μL, 780 μmol), and acetic acid (170 μL, 2.83 mmol) in MeOH (1 mL) was stirred at r.t. for 5 min. Sodium triacetoxyborohydride (99 mg, 470 μmol) was then added. The reaction mixture was stirred at r.t. for 20 min and then concentrated to residue. EtOAc (5 mL) and 1N NaOH (5 mL) were added. The organic layer was isolated, dried (MgSO4), filtered, and concentrated. Silica gel chromatography (0% to 10% MeOH/DCM) afforded 60 mg (89%) of (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-methyl-amine. [M+H]+ 435.32; 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 7.88 (s, 1H), 7.33 (s, 1H), 7.12 (s, 1H), 6.65-6.79 (m, 3H), 4.21 (s, 4H), 3.54 (t, 1H), 3.24-3.42 (m, 3H), 2.76 (m, 1H), 2.11-2.55 (m, 8H), 2.15 (s, 3H), 1.84 (m, 2H), 1.70 (m, 1H).

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine | 156 μmol, 65 mg | O1CCOC2=C1C=CC(=C2)CNCCN2C(CCC2)C2=NC(=NC(=C2)C)N2C=NC=C2 | C23H28N6O2
reactant | formalin | 780 μmol, 63 μL | C=O | CH2O
reactant | acetic acid | 2.83 mmol, 170 μL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 470 μmol, 99 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-methyl-amine | 60 mg, 89% | O1CCOC2=C1C=CC(=C2)CN(C)CCN2C(CCC2)C2=NC(=NC(=C2)C)N2C=NC=C2 | C24H30N6O2
